US04772614
1,7-Dimethyl-4-quinolone (4.31 g) was stirred with chlorosulphonic acid (11.95 ml) at 140° for 2.5 hours and then cooled to room temperature and poured carefully into ice water (1 liter). The resulting white solid was collected, washed with water and dried to give the novel compound 1,7-dimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride, m.p. >300°.

reactant | 1,7-Dimethyl-4-quinolone | 4.31 g | CN1C=CC(C2=CC=C(C=C12)C)=O | C11H11NO
reactant | chlorosulphonic acid | 11.95 ml | ClS(=O)(=O)O | ClHO3S
product | 1,7-dimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | CN1C=C(C(C2=CC=C(C=C12)C)=O)S(=O)(=O)Cl | C11H10ClNO3S
